US07304058B2
To a stirred solution of 1.90 g (7.13 mmol) [2-methoxy-5-(tetrahydro-pyran-4-yl)-phenyl]-thiourea in 20 ml acetic acid heated to 80° C. was added dropwise 1.45 ml (8.27 mmol) hydrobromic acid. (5.7 M solution in acetic acid) and stirring continued for 30 min at 80° C. 0.56 ml (7.85 mmol) DMSO was then added dropwise and the reaction mixture stirred for a further 30 min at 80° C. The mixture was then cooled to room temperature, poured slowly onto sodium bicarbonate solution, and ethyl acetate added. The mixture was stirred for 10 minutes at room temperature and the resulting crystals collected by filtration, washing with ethyl acetate. The mother liquor phases were separated and the organic phase concentrated in vacuo to 5 ml. The resulting second crop of crystals was collected by filtration and combined with the first crop to afford 920 mg (49%) 4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-ylamine as a white solid. ES-MS m/e (%): 265 (M+H+, 100).

reactant | [2-methoxy-5-(tetrahydro-pyran-4-yl)-phenyl]-thiourea | 7.13 mmol, 1.90 g | COC1=C(C=C(C=C1)C1CCOCC1)NC(=S)N | C13H18N2O2S
reactant | hydrobromic acid | 8.27 mmol, 1.45 ml | Br | BrH
reactant | DMSO | 7.85 mmol, 0.56 ml | CS(=O)C | C2H6OS
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-ylamine | 920 mg, 49% | COC1=CC=C(C2=C1N=C(S2)N)C2CCOCC2 | C13H16N2O2S
